US06602897B2
12.8 g of 2-chloro-3-dimethylaminoaniline is dissolved in 180 ml of DMF and stirred at 0° C. A solution of 13.4 g of N-bromosuccinimide in 80 ml of DMF is slowly added dropwise, so that the temperature does not rise above 2° C. The mixture is stirred for 5 hours at 0° C. and then at RT. After 48 hours, 700 ml of ice-water is added. The white precipitate is filtered off and the aqueous phase is extracted three times with 200 ml of diethyl ether. The organic phases are dried, filtered, and evaporated down. 17.5 g of 2-bromo-6-chloro-5-dimethylaminoaniline is obtained as a brown oil and used further without any additional purification.

reactant | 2-chloro-3-dimethylaminoaniline | 12.8 g | ClC1=C(N)C=CC=C1N(C)C | C8H11ClN2
reactant | N-bromosuccinimide | 13.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-bromo-6-chloro-5-dimethylaminoaniline | 17.5 g | BrC1=C(N)C(=C(C=C1)N(C)C)Cl | C8H10BrClN2
